US08530475B2
Z-(1S,6S)-7-naphthalen-2-ylmethyl-7,9-diaza-bicyclo[4.2.2]dec-3-ene
Z-(1S,6S)-7-naphthalen-2-ylmethyl-7,9-diaza-bicyclo[4.2.2]dec-3-ene-8,10-dione (40 mg, 0.1307 mmol) was placed in a μW tube, followed by addition of DiBAl-H (3 mL, 3 mmol, [1M] in THF). The reaction mixture was purged under argon for 20 min, then heated to 130° C. for 900 sec. The reaction mixture was poured in to a 100 mL mixture (1:1) of Rochelle's solution and diethyl ether and stirred vigorously overnight. The reaction mixture was separated and the organic layer was dried with magnesium sulfate, filtered and the solvent evaporated under reduced pressure to yield an oil. The oil was treated with 1M HCl in diethyl ether (2 mL) to yield the title compound as a residue.

reactant | Z-(1S,6S)-7-naphthalen-2-ylmethyl-7,9-diaza-bicyclo[4.2.2]dec-3-ene-8,10-dione | 0.1307 mmol, 40 mg | C1=C(C=CC2=CC=CC=C12)CN1[C@H]2C\C=C/C[C@@H](C1=O)NC2=O | C19H18N2O2
reactant | DiBAl-H | 3 mmol, 1M, 3 mL | CC(C)C[AlH]CC(C)C
reactant | HCl | 1M | Cl | ClH
solvent | diethyl ether | 2 mL | C(C)OCC | C4H10O
product | Z-(1S,6S)-7-naphthalen-2-ylmethyl-7,9-diaza-bicyclo[4.2.2]dec-3-ene | C1=C(C=CC2=CC=CC=C12)CN1[C@H]2C\C=C/C[C@@H](C1)NC2 | C19H22N2
